US06265411B1
A solution of 5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride (9.63 g, 24 mmol) in thionyl chloride (20ml) and DMF (50 μl) was heated at 45° C. for 1.5 hours. The excess thionyl chloride was removed by evaporation and by azeotroping with toluene (×2). The resulting solid was suspended in THF (250 ml) and methylene chloride (100 ml) and ammonia was bubbled though the mixture for 30 minutes and the mixture stirred for a further 1.5 hours at ambient temperature. The volatiles were removed by evaporation, the residue was dissolved in water and applied to a Diaion (trade mark of Mitsubishi) HP20SS resin column and eluted with water/methanol (100/0 to 95/5). The solvent was removed by evaporation from the fractions containing product and the residue was dissolved in a minimum of methanol and the solution was diluted with ether. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 5-methoxy-2-nitro4-(3-(pyrrolidin-1-yl)propoxy)benzamide (7.23 g, 73%).

reactant | 5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)benzoic acid hydrochloride | 24 mmol, 9.63 g | Cl.COC=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])OCCCN1CCCC1
reactant | DMF | 50 μl | CN(C)C=O | C3H7NO
solvent | thionyl chloride | 20ml | S(=O)(Cl)Cl | Cl2OS
product | 5-methoxy-2-nitro4-(3-(pyrrolidin-1-yl)propoxy)benzamide | 7.23 g, 73% | COC=1C(=CC(=C(C(=O)N)C1)[N+](=O)[O-])OCCCN1CCCC1 | C15H21N3O5
